US07772243B2
Step 4: 4-Piperidin-1-yl-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-7-(3-morpholin-4-yl-propoxy)-quinazolin-6-yl]-amide
N*4*-(3-Chloro-4-fluoro-phenyl)-7-(3-morpholin-4-yl-propoxy)-quinazoline-4,6-diamine (510 mg, 1.18 mmol) and DIPEA (620 μL, 3.55 mmol) were combined in tetrahydrofuran (10 mL) and cooled to 0° C. 4-Piperidin-1-yl-but-2-enoyl chloride (278 mg, 1.48 mmol) was added and the reaction stirred at 0° C. for 2 hours. The mixture was quenched with ethyl acetate, dried with MgSO4 and concentrated. The residue was purified using chromatography on silica eluting with 15%-20% MeOH in CH2Cl2 to yield the desired product (20 mg). 400 MHz 1H NMR (DMSO-d6) δ 8.82 (s, 1H), 8.50 (s, 1H), 8.11 (dd, 1H, J=6.9, 2.6 Hz), 7.77 (m, 1H), 7.40 (t,1H, J=9.0 Hz), 7.25 (s,1H), 6.76 (m,1H), 6.53 (m, 1H), 4.23 (t, 2H, J=6.0 Hz), 3.55 (m, 4H), 3.08 (m, 2H), 2.40 (m, 10H), 1.96 (m, 2H), 1.29 (m, 6H). MS m/z 584 (M+1).

reactant | N*4*-(3-Chloro-4-fluoro-phenyl)-7-(3-morpholin-4-yl-propoxy)-quinazoline-4,6-diamine | 1.18 mmol, 510 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)N)OCCCN1CCOCC1 | C21H23ClFN5O2
reactant | DIPEA | 3.55 mmol, 620 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-Piperidin-1-yl-but-2-enoyl chloride | 1.48 mmol, 278 mg | N1(CCCCC1)CC=CC(=O)Cl | C9H14ClNO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Piperidin-1-yl-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-7-(3-morpholin-4-yl-propoxy)-quinazolin-6-yl]-amide | 20 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CCCCC1)=O)OCCCN1CCOCC1 | C30H36ClFN6O3
